US06787544B2
In 5 mL of ethanol is dissolved 0.1 g of ethyl 5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylate obtained according to the method described in literature (J. Am. Chem. Soc., 1956, 78, 1258-1259). At ambient temperature, gaseous ammonia is introduced into the solution for 30 minutes to saturate the solution with ammonia. After allowing the solution to stand at the same temperature as above for 15 hours, the resulting crystals are collected by filtration. The crystals thus collected are washed with three 5 mL portions of ethanol to obtain 0.05 g of 5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxamide.

reactant | ethyl 5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylate | 0.1 g | O=C1NC(NN=C1C(=O)OCC)=S | C6H7N3O3S
reactant | ammonia | N | H3N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxamide | 0.05 g | O=C1NC(NN=C1C(=O)N)=S | C4H4N4O2S
